*
.SUBCKT PBSS5120T 1 2 3
* 
* housing parasitics
LBlead 11 111 3.5E-10 
LE 2 22 1.12E-09 
LC 3 33 2.3E-10 
LBbond 1 11 9E-10 
CBCG 33 111 6.2E-14 
CBEG 22 111 4.5E-14 
CCEG 22 33 6.2E-14
* 
Q1 33 111 22 PBSS5120T 
*
.MODEL PBSS5120T PNP 
+ IS = 4.437E-013 
+ NF = 0.9804 
+ ISE = 4.91E-015 
+ NE = 1.329 
+ BF = 458 
+ IKF = 1.6 
+ VAF = 25.5 
+ NR = 0.979 
+ ISC = 2.768E-014 
+ NC = 1.138 
+ BR = 101.4 
+ IKR = 0.8 
+ VAR = 16 
+ RB = 8.1 
+ IRB = 8E-005 
+ RBM = 0.9 
+ RE = 0.075 
+ RC = 0.03 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.112E-010 
+ VJE = 0.8586 
+ MJE = 0.4226 
+ TF = 9.7E-010 
+ XTF = 25 
+ VTF = 2.2 
+ ITF = 1.5 
+ PTF = 0 
+ CJC = 7.137E-011 
+ VJC = 0.4836 
+ MJC = 0.3643 
+ XCJC = 1 
+ TR = 1.9E-008 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.75 
.ENDS
